US07064123B1
To a stirred mixture of 2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid (84.9 mg, 0.3 mmol), 2-amino-1-benzooxazol-2-yl-butan-1-ol TFA salt (96.9 mg), prepared as in reference 21, and HOBt (55.1 mg, 0.36 mmol) in MeCl2 (5 ml), was added EDC (86.4 mg, 0.45 mmol) and N-methylmorpholine (0.25 ml) at room temperature. After stirring for 14 hours, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated NaHCO3, brine, dried with MgSO4 and concentrated to yield 150 mg of N-[1-(benzooxazol-2-yl-hydroxy-methyl)-propyl]-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide; MS: 470.5(M−1), 472.4(M+1).

reactant | 2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid | 0.3 mmol, 84.9 mg | C1(CCCCC1)CC(C(=O)O)CC(=O)N1CCOCC1 | C15H25NO4
reactant | 2-amino-1-benzooxazol-2-yl-butan-1-ol TFA salt | 96.9 mg | OC(=O)C(F)(F)F.NC(C(O)C=1OC2=C(N1)C=CC=C2)CC
reactant | HOBt | 0.36 mmol, 55.1 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.45 mmol, 86.4 mg
reactant | N-methylmorpholine | 0.25 ml | CN1CCOCC1 | C5H11NO
solvent | MeCl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[1-(benzooxazol-2-yl-hydroxy-methyl)-propyl]-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide | 150 mg | O1C(=NC2=C1C=CC=C2)C(C(CC)NC(C(CC(=O)N2CCOCC2)CC2CCCCC2)=O)O | C26H37N3O5
